US20010036653A1
Preparation of (3R,4S,5S)-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-4-trifluoromethanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester
A solution of 3.71 g (3R,4S,5S)-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-4-hydroxy-cyclohex-1-ene carboxylic acid ethyl ester) (10 mmol) and 1.61 ml pyridine (20 mmol) in 20 ml CH2Cl2 was cooled to 0C. 1.73 ml trifluoro-methanesulfonic anhydride (10.5 mmol) were added over 10 min. and stirring at 0° C. was continued for 1 h. The reaction mixture was washed with 10 ml 1N HCl and twice with 10 ml, a total of 20 ml 10% brine. The aqueous layers were extracted sequentially with 10 ml methylene chloride and the combined organic layers were dried over Na2SO4. Filtration and rotary evaporation (30° C./10 mbar) gave 4.96 g (98.4%) beige, crystalline title product, which was used without further purification in the next step.

reactant | (3R,4S,5S)-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-4-hydroxy-cyclohex-1-ene carboxylic acid ethyl ester | 3.71 g | C(C)OC(=O)C1=C[C@H]([C@H]([C@H](C1)NC(=O)OC(C)(C)C)O)OC(CC)CC | C19H33NO6
reactant | pyridine | 20 mmol, 1.61 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoro-methanesulfonic anhydride | 10.5 mmol, 1.73 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (3R,4S,5S)-5-tert.-butoxycarbonylamino-3-(1-ethyl-propoxy)-4-trifluoromethanesulfonyloxy-cyclohex-1-enecarboxylic acid ethyl ester | C(C)OC(=O)C1=C[C@H]([C@H]([C@H](C1)NC(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F)OC(CC)CC | C20H32F3NO8S
